US04490527
D. N-[3-[3-(4-morpholinylmethyl)phenoxy]propyl]-1,2-benzisothiazol-3-amine 1,1-dioxide hydrochloride
A solution of 1.37 g (0.0068 moles) of 3-chlorobenzoisothiazole 1,1-dioxide is added dropwise to 1.7 g (0.0068 moles) of 3-[3-(4-morpholinylmethyl)phenoxy]-1-propanamine in 150 ml of gently refluxing chloroform, over 30 minutes. The reflux is continued for 15 minutes after the end of the addition, then the reaction mixture is evaporated to dryness. The residue is treated with ethanol-ethyl acetate, causing the formation of a yellow-white solid. m.p. 21° C. (dec.) Recrystallization of the crude product from ethanol gave a m.p. of 215° C. (dec.) (1.7 g yield).

reactant | 3-chlorobenzoisothiazole 1,1-dioxide | 0.0068 moles, 1.37 g | ClC1=NS(C2=C1C=CC=C2)(=O)=O | C7H4ClNO2S
reactant | 3-[3-(4-morpholinylmethyl)phenoxy]-1-propanamine | 0.0068 moles, 1.7 g | N1(CCOCC1)CC=1C=C(OCCCN)C=CC1 | C14H22N2O2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | N-[3-[3-(4-morpholinylmethyl)phenoxy]propyl]-1,2-benzisothiazol-3-amine 1,1-dioxide hydrochloride | Cl.N1(CCOCC1)CC=1C=C(OCCCNC2=NS(C3=C2C=CC=C3)(=O)=O)C=CC1 | InChI=1S/C21H25N3O4S.ClH/c25-29(26)20-8-2-1-7-19(20)21(23-29)22-9-4-12-28-18-6-3-5-17(15-18)16-24-10-13-27-14-11-24;/h1-3,5-8,15H,4,9-14,16H2,(H,22,23);1H
